US06706725B1
b) 2-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-5-((E)-1-ethylbut-1-en-3-ynyl)-thiophene
3.9 g (5.4 mmol) of 2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-5-((E)-4,4-dibromo-1-ethylbuta-1,3-dienyl)thiophene are dissolved in 100 mL of THF and the mixture is cooled to −78° C. 4.4 mL (11 mmol) of 2.5 M butyllithium are added slowly and the reaction medium is stirred at the same temperature for 1 hour. After the usual treatment and chromatography on silica gel (eluent: 96 heptane/4 ethyl acetate), the desired product is obtained in the form of a brown oil.

reactant | 2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-5-((E)-4,4-dibromo-1-ethylbuta-1,3-dienyl)thiophene | 5.4 mmol, 3.9 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2SC(=CC2)\C(=C\C=C(Br)Br)\CC)C=CC1CO[Si](C)(C)C(C)(C)C | C31H48Br2O3SSi2
reactant | butyllithium | 11 mmol, 2.5 M, 4.4 mL | C(CCC)[Li]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-5-((E)-1-ethylbut-1-en-3-ynyl)-thiophene | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2SC(=CC2)\C(=C\C#C)\CC)C=CC1CO[Si](C)(C)C(C)(C)C | C31H48O3SSi2
